* C:\Users\Ian Diaz\Desktop\TP02\Ex1\iA\Spice.asc
V1 N003 0 AC 1
R1 N001 N003 {mc(10k,tola)}
R3 N001 0 {mc(10k,tola)}
R2 N002 N001 {mc(10k,tola)}
R4 N002 0 {mc(40k,tola)}
V2 VCC 0 15
V3 0 -VCC 15
XU1 0 N001 VCC -VCC N002 LM324
.ac dec 10 1 10meg
.param tola=0.1
.step param run 1 100 1
.lib C:\Users\Ian Diaz\Desktop\TP02\Ex1\iA\LM324.mod
.backanno
.end
